US05686564
NaCN (509 mg) in DMSO (4.25 ml) is added to 4-(6-chlorohexyl)pyridine (1.71 g) dissolved in DMSO (4.25 ml). The mixture is stirred at 60° C. for 3 hours, poured into water (100 ml) and extracted with chloroform (3×15 ml). The combined extracts are washed with water (2×20 ml), dried (Na2SO4) and the solvent evaporated to give 4-(6-cyanohexyl)-pyridine.

reactant | NaCN | 509 mg | [C-]#N.[Na+]
reactant | 4-(6-chlorohexyl)pyridine | 1.71 g | ClCCCCCCC1=CC=NC=C1 | C11H16ClN
reactant | water | 100 ml | O | H2O
solvent | DMSO | 4.25 ml | CS(=O)C | C2H6OS
solvent | DMSO | 4.25 ml | CS(=O)C | C2H6OS
product | 4-(6-cyanohexyl)-pyridine | C(#N)CCCCCCC1=CC=NC=C1 | C12H16N2
